US06514996B2
(Step A) Methyl 3-(1,1-dimethyl-2-propyn-1-yloxy)-4-methoxybenzoate (Compound IIao-a)
A mixture of methyl 3-hydroxy-4-methoxybenzoate (5.41 g), 3-chloro-3-methyl-1-butyne (10 ml), cesium carbonate (19.4 g), and DMF (54 ml) was stirred at 80° C. for one hour. 3-Chloro-3-methyl-1-butyne (5 ml) was further added to the mixture followed by stirring at 90° C. for 3 hours. After being allowed to stand for cooling, water was added to the mixture followed by extraction with ether. The organic layer was washed with a 1N aqueous solution of sodium hydroxide and with a saturated saline and dried over sodium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1 and 7/1) to give Compound IIao-a (2.31 g, 31%) as a brown oily substance.

reactant | methyl 3-hydroxy-4-methoxybenzoate | 5.41 g | OC=1C=C(C(=O)OC)C=CC1OC | C9H10O4
reactant | 3-chloro-3-methyl-1-butyne | 10 ml | ClC(C#C)(C)C | C5H7Cl
reactant | cesium carbonate | 19.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 54 ml | CN(C)C=O | C3H7NO
reactant | 3-Chloro-3-methyl-1-butyne | 5 ml | ClC(C#C)(C)C | C5H7Cl
solvent | water | O | H2O
product | Methyl 3-(1,1-dimethyl-2-propyn-1-yloxy)-4-methoxybenzoate | CC(C#C)(OC=1C=C(C(=O)OC)C=CC1OC)C | C14H16O4
